US06288061B1
Ethyl 2-hydroxyimino-3-(4-methoxyphenyl)-3-oxopropionate, 4-benzyloxybenzaldehyde and ammonium acetate are reacted and treated in the same manner as in Example 22 to give ethyl 2-(4-benzyloxyphenyl)-5-(4-methoxyphenyl)imidazole-4-carboxylate. Ethyl 2-(4-benzyloxyphenyl)-5-(4-methoxyphenyl)imidazole-4-carboxylate is reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 2-(4-benzyloxyphenyl)-5-(4-methoxyphenyl)imidazole-4-carboxylic acid. 2-(4-Benzyloxyphenyl)-5-(4-methoxyphenyl)imidazole-4-carboxylic acid is reacted and treated in the same manner as in Example 1 to give 2-(4-benzyloxyphenyl)-5-(4-methoxyphenyl)-N-(2-thiazolyl)imidazole-4-carboxamide.

reactant | Ethyl 2-hydroxyimino-3-(4-methoxyphenyl)-3-oxopropionate | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)OC | C12H13NO5
reactant | 4-benzyloxybenzaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | ethyl 2-(4-benzyloxyphenyl)-5-(4-methoxyphenyl)imidazole-4-carboxylate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1NC(=C(N1)C(=O)OCC)C1=CC=C(C=C1)OC | C26H24N2O4
